US08283353B2
4′-{[4-(2-{[tert-butyl(dimethyl)silyl]oxy}-3,3-dimethylbutyl)-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
To a mixture of 4′-{[4-(2-hydroxy-3,3-dimethylbutyl)-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (0.9 g), 2,6-lutidine (0.32 mL) and tetrahydrofuran (20 mL) was added tert-butyl(dimethyl)silyl trifluoromethanesulfonate (0.64 mL), and the mixture was stirred at room temperature for 5 hr. The reaction mixture was diluted with ethyl acetate, washed with saturated aqueous potassium hydrogensulfate solution and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.9 g, 81%).

reactant | 4′-{[4-(2-hydroxy-3,3-dimethylbutyl)-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.9 g | OC(CN1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=C(N2)C)C(C)(C)C | C29H33N5O2
reactant | 2,6-lutidine | 0.32 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | tert-butyl(dimethyl)silyl trifluoromethanesulfonate | 0.64 mL | FC(S(=O)(=O)O[Si](C)(C)C(C)(C)C)(F)F | C7H15F3O3SSi
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4′-{[4-(2-{[tert-butyl(dimethyl)silyl]oxy}-3,3-dimethylbutyl)-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.9 g, 81% | [Si](C)(C)(C(C)(C)C)OC(CN1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=C(N2)C)C(C)(C)C | C35H47N5O2Si
